US06348474B1
7-(Acetylcarbamoyl)-1-(2,4-dichlorobenzyl)-1,4-dihydro-2-methylquinazoline hydrochloride
5-(Acetylcarbamoyl)-2-(acetylaminomethyl)aniline (1.06 g), potassium carbonate (1.40 g), potassium iodide (0.8 g) and 2,4-dichlorobenzyl chloride (1.40 g) in a mixture of dimethylformamide (15 ml) and water (10 ml) were stirred at 90° C. for 15 hr. After concentration of the reaction mixture, water was added and the mixture was extracted with ethyl acetate. The extract was concentrated, and methanol (5 ml) and concentrated hydrochloric acid (5 ml) were added. The mixture was refluxed for 1 hr. The reaction mixture was concentrated and purified by thin-layer chromatography to give the objective compound (0.46 g).

reactant | 5-(Acetylcarbamoyl)-2-(acetylaminomethyl)aniline | 1.06 g | C(C)(=O)NC(=O)C=1C=CC(=C(N)C1)CNC(C)=O | C12H15N3O3
reactant | potassium carbonate | 1.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.8 g | [I-].[K+]
reactant | 2,4-dichlorobenzyl chloride | 1.40 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 10 ml | O | H2O
product | 7-(Acetylcarbamoyl)-1-(2,4-dichlorobenzyl)-1,4-dihydro-2-methylquinazoline hydrochloride | 0.46 g | Cl.C(C)(=O)NC(=O)C1=CC=C2CN=C(N(C2=C1)CC1=C(C=C(C=C1)Cl)Cl)C | InChI=1S/C19H17Cl2N3O2.ClH/c1-11-22-9-14-4-3-13(19(26)23-12(2)25)7-18(14)24(11)10-15-5-6-16(20)8-17(15)21;/h3-8H,9-10H2,1-2H3,(H,23,25,26);1H
